US07309699B2
2-Bromo-1-(4-iodo-phenyl)-ethanone
To the solution of 1-(4-Iodo-phenyl)-ethanone (Aldrich, 125 g, 508 mmol) in glacial acetic acid (600 mL) was added the bromine (Aldrich, 79.3 g, 508 mmol, in 50 mL of acetic acid) and stirred at room temperature for 10 hours. It was concentrated under reduced pressure. The residue was then diluted with ethyl acetate (100 mL) and washed with brine (3×50 mL). The organic solution was concentrated. The title compound was obtained as yellow solid by recrystallization from diethyl ether (150 g, 91%). 1H NMR (300 MHz, CDCl3) δ 4.39 (s, 2H), 7.69 (d, J=8.5 Hz, 2H), 7.87 (d, J=8.5 Hz, 2 H) ppm; MS (DCl/NH3) m/z 246 (M−Br)+, 264 (M−Br+NH4)+.

reactant | 1-(4-Iodo-phenyl)-ethanone | 508 mmol, 125 g | IC1=CC=C(C=C1)C(C)=O | C8H7IO
reactant | bromine | 508 mmol, 50 mL, 79.3 g | BrBr | Br2
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-(4-iodo-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)I | C8H6BrIO
